US06320050B1
A solution of 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid (131 mg, 0.5 mmol) in methylene chloride (5.0 mL) was cooled to 0° C. and then treated with a 2.0 M solution of oxalyl chloride in methylene chloride (1.0 mL, 2.0 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 15 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-aminothiazole (110 mg, 1.0 mmol) in tetrahydrofuran (5 mL) and N,N-diisopropylethylamine (0.28 mL, 0.55 mmol). The solution was stirred at 25° C. for 24 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-nitro-phenyl)-N-thiazol-2-yl-propionamide (38 mg, 22.4%) as a yellow solid: mp 186-187° C.; EI-HRMS m/e calcd for C17H19N3O3S (M+) 345.1147, found 345.1148.

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid | 0.5 mmol, 131 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 1.0 mmol, 110 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 0.55 mmol, 0.28 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 2.0 mmol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-nitro-phenyl)-N-thiazol-2-yl-propionamide | 38 mg, 22.4% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O3S
